US04788210
starting from ethyl 4-chloro-2-fluorobenzimidate and o-trifluoromethyl-benzoyl chloride there is obtained ethyl N-(o-trifluoromethyl-benzoyl)-2-fluoro-4-chlorobenzimidate and therefrom with methylhydrazine there is obtained 3-(4-chloro-2-fluorophenyl)-1-methyl-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole, m.p. 109.5°-112° C.;

reactant | ethyl 4-chloro-2-fluorobenzimidate | ClC1=CC(=C(C(OCC)=N)C=C1)F | C9H9ClFNO
reactant | o-trifluoromethyl-benzoyl chloride | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
product | ethyl N-(o-trifluoromethyl-benzoyl)-2-fluoro-4-chlorobenzimidate | FC(C1=C(C(=O)N=C(C2=C(C=C(C=C2)Cl)F)OCC)C=CC=C1)(F)F | C17H12ClF4NO2
